US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-3-(3-methylisoxazol-4yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
5-Chloro-1H-indole-3-carbaldehyde(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone (100 mg) was added to a solution of isoxazolaldehyde (86 mg) in dimethylformamide at RT. Piperidine (100 uL) was then added and brought to 80 C for 8 h. After cooling to RT, ethyl acetate (25 mL) was added to brown solution and water (25 mL) was added and extracted. The aqueous layer was back extract with ethyl acetate and then combined. The organic layer was dried over sodium sulfate, filtered and removal of solvent to give an amorphous solid. The isoxazole was submitted the Gilson Preparatory chromatography to give a 100 mg of white solids. ES M+H+467.

reactant | 5-Chloro-1H-indole-3-carbaldehyde(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 100 mg | C(C(C)C)N1C(N(C(C=C1NN=CC1=CNC2=CC=C(C=C12)Cl)=O)C)=O | C18H20ClN5O2
reactant | isoxazolaldehyde | 86 mg | O1N=C(C=C1)C=O | C4H3NO2
reactant | Piperidine | 100 uL | N1CCCCC1 | C5H11N
reactant | isoxazole | O1N=CC=C1 | C3H3NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-3-(3-methylisoxazol-4yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 100 mg | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1C(=NOC1)C)=O)C)=O)CC(C)C | C23H23ClN6O3
